US07943609B2
A solution of chloroacetyl chloride (16.1 g, 142 mmol) in chloroform (120 mL) was added dropwise to a solution of 7-bromo-N4-[3-(tert-butyldimethylsilanyloxy)-1-methylpropyl]quinoline-3,4-diamine (54.96 g, 129.5 mmol) in chloroform (500 mL), and the reaction was stirred for three days at room temperature. The solvent was removed under reduced pressure, and the intermediate amide was heated at reflux for two hours in glacial acetic acid (600 mL). The acetic acid was removed under reduced pressure, and the residue was passed through a plug of silica gel (eluting with dichloromethane) to provide 9.53 g of 7-bromo-1-[3-(tert-butyldimethylsilanyloxy)-1-methylpropyl]-2-chloromethyl-1H-imidazo[4,5-c]quinoline and a mixture of three other products. The mixture of products was dissolved in glacial acetic acid and heated at reflux for two days. The acetic acid was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluting with 0% to 5% 2 M methanolic ammonia in dichloromethane) to provide 9.14 g of 3-{2-[(acetyloxy)methyl]-7-bromo-1H-imidazo[4,5-c]quinolin-1-yl}butyl acetate.

reactant | chloroacetyl chloride | 142 mmol, 16.1 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 7-bromo-N4-[3-(tert-butyldimethylsilanyloxy)-1-methylpropyl]quinoline-3,4-diamine | 129.5 mmol, 54.96 g | BrC1=CC=C2C(=C(C=NC2=C1)N)NC(CCO[Si](C)(C)C(C)(C)C)C | C19H30BrN3OSi
solvent | chloroform | 120 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-1-[3-(tert-butyldimethylsilanyloxy)-1-methylpropyl]-2-chloromethyl-1H-imidazo[4,5-c]quinoline | 9.53 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3C(CCO[Si](C)(C)C(C)(C)C)C)CCl | C21H29BrClN3OSi
